** sch_path: /home/sscspico/test_tools/coc_analog_vibes/ISSCC25/submitted_notebooks/analog_vibes/sim_sch/runs/RUN_2024-12-01_15-04-14/parameters/power_params/run_13/tb_power.sch
**.subckt tb_power
V0 AVSS GND 0
V1 AVDD AVSS 1.8
I1 AVDD IBIAS1_10U 9.999999999999999e-06
E1 INP IPCM DIFFIN AVSS 0.5
E3 INM IPCM DIFFIN AVSS -0.5
V2 IPCM AVSS 1.2
V3 DIFFIN AVSS 0
C1 VOUT AVSS 8e-11 m=1
I2 AVDD IBIAS2_10U 9.999999999999999e-06
x1 AVDD AVSS INP INM IBIAS1_10U IBIAS2_10U VOUT ota
**** begin user architecture code

.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/sscspico/miniconda3/share/pdk/sky130A/libs.tech/ngspice/corners/sf.spice
.include /home/sscspico/miniconda3/share/pdk/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /home/sscspico/miniconda3/share/pdk/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /home/sscspico/miniconda3/share/pdk/sky130A/libs.tech/ngspice/corners/sf/specialized_cells.spice


.control
op
save all
save @m.x1.xm1.msky130_fd_pr__pfet_01v8_lvt[id]
save @m.x1.xm2.msky130_fd_pr__pfet_01v8_lvt[id]
save @m.x1.xm9.msky130_fd_pr__pfet_01v8_lvt[id]
save @m.x1.xm10.msky130_fd_pr__pfet_01v8_lvt[id]
save @m.x1.xm14.msky130_fd_pr__pfet_01v8_lvt[id]
save @m.x1.xm12.msky130_fd_pr__pfet_01v8_lvt[id]

let power_ota_core = 1.8*(@m.x1.xm1.msky130_fd_pr__pfet_01v8_lvt[id] + @m.x1.xm2.msky130_fd_pr__pfet_01v8_lvt[id] + @m.x1.xm9.msky130_fd_pr__pfet_01v8_lvt[id] + @m.x1.xm10.msky130_fd_pr__pfet_01v8_lvt[id] + @m.x1.xm14.msky130_fd_pr__pfet_01v8_lvt[id] + @m.x1.xm12.msky130_fd_pr__pfet_01v8_lvt[id])
let power_tot = -1*1.8*i(V1)
let power_ota_bias = power_tot-power_ota_core
echo $&power_tot $&power_ota_core $&power_ota_bias > /home/sscspico/test_tools/coc_analog_vibes/ISSCC25/submitted_notebooks/analog_vibes/sim_sch/runs/RUN_2024-12-01_15-04-14/parameters/power_params/run_13/tb_power_13.data
quit

.endc


.temp -40

**** end user architecture code
**.ends

* expanding   symbol:  xschem/ota.sym # of pins=7
** sym_path: /home/sscspico/test_tools/coc_analog_vibes/ISSCC25/submitted_notebooks/analog_vibes/sim_sch/xschem/ota.sym
** sch_path: /home/sscspico/test_tools/coc_analog_vibes/ISSCC25/submitted_notebooks/analog_vibes/sim_sch/xschem/ota.sch
.subckt ota AVDD AVSS INP INM NB_10U NBC_10U VOUT
*.iopin AVDD
*.iopin AVSS
*.ipin INP
*.ipin INM
*.ipin NB_10U
*.ipin NBC_10U
*.opin VOUT
XM1 OM Y AVDD AVDD sky130_fd_pr__pfet_01v8_lvt L=1 W=4.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM2 OP Y AVDD AVDD sky130_fd_pr__pfet_01v8_lvt L=1 W=4.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
x1 Y OP AVSS AVDD VCC VSS passgate_nlvt W_N=0.5 L_N=4 W_P=3 L_P=4 m=1
x2 OM Y AVSS AVDD VCC VSS passgate_nlvt W_N=0.5 L_N=4 W_P=3 L_P=4 m=1
XM5 OP INM T2 AVSS sky130_fd_pr__nfet_01v8 L=2 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 OM INP T1 AVSS sky130_fd_pr__nfet_01v8 L=2 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 FB2 INP T2 AVSS sky130_fd_pr__nfet_01v8 L=2 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 FB1 INM T1 AVSS sky130_fd_pr__nfet_01v8 L=2 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 T2 FB2 AVSS AVSS sky130_fd_pr__nfet_01v8 L=2 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 T1 FB1 AVSS AVSS sky130_fd_pr__nfet_01v8 L=2 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 FB2 PB2 AVDD AVDD sky130_fd_pr__pfet_01v8_lvt L=3 W=1.88 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM10 FB1 PB1 AVDD AVDD sky130_fd_pr__pfet_01v8_lvt L=3 W=1.88 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM14 VOUT OM AVDD AVDD sky130_fd_pr__pfet_01v8_lvt L=1 W=4.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM11 VOUT X AVSS AVSS sky130_fd_pr__nfet_01v8 L=1 W=2.25 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM12 X OP AVDD AVDD sky130_fd_pr__pfet_01v8_lvt L=1 W=4.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM13 X X AVSS AVSS sky130_fd_pr__nfet_01v8 L=1 W=2.25 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM16 net1 NBC_10U AVSS AVSS sky130_fd_pr__nfet_01v8 L=2 W=1.4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM17 NBC_10U NBC_10U net1 AVSS sky130_fd_pr__nfet_01v8 L=2 W=4.15 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM18 NB_10U NBC_10U net2 AVSS sky130_fd_pr__nfet_01v8 L=2 W=4.15 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM19 PB1 NBC_10U net3 AVSS sky130_fd_pr__nfet_01v8 L=2 W=4.15 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM20 PB2 NBC_10U net4 AVSS sky130_fd_pr__nfet_01v8 L=2 W=4.15 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM21 net2 NB_10U AVSS AVSS sky130_fd_pr__nfet_01v8 L=2 W=4.15 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM22 net3 NB_10U AVSS AVSS sky130_fd_pr__nfet_01v8 L=2 W=4.15 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM23 net4 NB_10U AVSS AVSS sky130_fd_pr__nfet_01v8 L=2 W=4.15 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM15 PB1 PB1 AVDD AVDD sky130_fd_pr__pfet_01v8_lvt L=3 W=1.88 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM24 PB2 PB2 AVDD AVDD sky130_fd_pr__pfet_01v8_lvt L=3 W=1.88 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
.ends


* expanding   symbol:  sky130_tests/passgate_nlvt.sym # of pins=4
** sym_path: /home/sscspico/miniconda3/share/pdk/sky130A/libs.tech/xschem/sky130_tests/passgate_nlvt.sym
** sch_path: /home/sscspico/miniconda3/share/pdk/sky130A/libs.tech/xschem/sky130_tests/passgate_nlvt.sch
.subckt passgate_nlvt Z A GP GN VCCBPIN VSSBPIN  W_N=1 L_N=0.35 W_P=1 L_P=0.35
*.iopin A
*.iopin Z
*.ipin GP
*.ipin GN
XM1 Z GN A VSSBPIN sky130_fd_pr__nfet_01v8_lvt L=L_N W=W_N nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 Z GP A VCCBPIN sky130_fd_pr__pfet_01v8_lvt L=L_P W=W_P nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
* noconn VCCBPIN
* noconn VSSBPIN
.ends

.GLOBAL GND
.end
